US06583126B2
Step 3 methyl 4-[(E)-1-(4-fluorobenzoyl)-4-phenyl-3-butenyl]benzoate
To methyl-4-[2-(4-fluorophenyl)-2-oxoethyl]benzoate(0.48 g, 1.76 mmol) in DMF (5 ml) at 0° C. was added NaH (0.05 g), 2.08 mmol). After a period of 0.5 h, a solution of cinnamyl bromide (0.35 g) in DMF (5 ml) was added to the reaction mixture. The reaction mixture was stirred at r.t. for 1 hour. Ammonium acetate saturated solution (20 ml) was added and the mixture was extracted with ethyl acetate (20 ml). The organic phase was washed with brine and dried over sodium sulfate and evaporated to dryness. The residue was purified by flash chromatography using hexane/ethyl acetate 30% to give 0.43 g of the title compound.

reactant | methyl-4-[2-(4-fluorophenyl)-2-oxoethyl]benzoate | 1.76 mmol, 0.48 g | COC(C1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)F)=O | C16H13FO3
reactant | NaH | 0.05 g | [H-].[Na+]
reactant | cinnamyl bromide | 0.35 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | Ammonium acetate | 20 ml | C(C)(=O)[O-].[NH4+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | methyl 4-[(E)-1-(4-fluorobenzoyl)-4-phenyl-3-butenyl]benzoate | 0.43 g | FC1=CC=C(C(=O)C(C\C=C\C2=CC=CC=C2)C2=CC=C(C(=O)OC)C=C2)C=C1 | C25H21FO3
